US09446034B2
2-[5-Cyclopropyl-2-(2-ethyl-5-methyl-2H-pyrazol-3-ylamino)-pyridin-4-ylamino]-N-methoxy-benzamide
To a 10 mL microwave tube were added 2-(2-chloro-5-cyclopropyl-pyridin-4-ylamino)-N-methoxy-benzamide (0.075 g, 0.24 mmol, 1 eq), 2-ethyl-5-methyl-2H-pyrazol-3-ylamine (0.05 g, 0.36 mmol, 1.5 eq), Cs2CO3 (0.23 g, 0.71 mmol, 3 eq), and 1,4-dioxane (3 mL) and the resulting mixture was degassed with N2 for 15 min. To this was added Pd2(dba)3 (0.014 g, 0.014 mmol, 0.06 eq) and xanthphos (0.03 g, 0.06 mmol, 0.25 eq) and this mixture was again degassed with N2 for another 10 min. The resulting mixture was irradiated in a CEM microwave at 120° C., 150 W for 35 min. After the reaction was finished solvent was removed under reduced pressure and crude product was purified by column chromatography over silica gel (100-200 mesh) using 1% MeOH-DCM as the eluant followed by washing with diethyl ether and pentane and DCM to give the title compound as an off white solid (5 mg, 5%). 1H-NMR (400 MHz, DMSO-d6): δ 0.50-0.60 (m, 2H), 0.88-1.00 (m, 2H), 1.15-1.27 (m, 3H), 1.55-1.65 (m, 1H), 2.07 (s, 3H), 3.70 (s, 3H), 3.80-3.95 (m, 2H), 5.95 (s, 1H), 6.64 (s, 1H), 6.90-7.10 (m, 1H), 7.40-7.60 (m, 3H), 7.72 (s, 1H), 8.34 (s, 1H), 9.47 (s, 1H), 11.88 (brs, 1H). LC-MS [M+H]+=407.3.

reactant | 2-(2-chloro-5-cyclopropyl-pyridin-4-ylamino)-N-methoxy-benzamide | 0.24 mmol, 0.075 g, 1 eq | ClC1=NC=C(C(=C1)NC1=C(C(=O)NOC)C=CC=C1)C1CC1 | C16H16ClN3O2
reactant | 2-ethyl-5-methyl-2H-pyrazol-3-ylamine | 0.36 mmol, 0.05 g, 1.5 eq | C(C)N1N=C(C=C1N)C | C6H11N3
reactant | Cs2CO3 | 0.71 mmol, 0.23 g, 3 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | xanthphos | 0.06 mmol, 0.03 g, 0.25 eq | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
catalyst | Pd2(dba)3 | 0.014 mmol, 0.014 g, 0.06 eq | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 2-[5-Cyclopropyl-2-(2-ethyl-5-methyl-2H-pyrazol-3-ylamino)-pyridin-4-ylamino]-N-methoxy-benzamide | C1(CC1)C=1C(=CC(=NC1)NC=1N(N=C(C1)C)CC)NC1=C(C(=O)NOC)C=CC=C1 | C22H26N6O2
